US07585868B2
Synthesis of 3-(3-(2,6-dichlorobenzyloxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ZK131).
1-tert-butyl-3-(3-(2,6-dichlorobenzyloxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (19.5 mg, 0.05 mmol) was dissolved in a solution of formic acid (2 mL) and conc. HCl (0.2 mL) and heated to reflux for 30 min. Reaction was concentrated in vacuo and purified by RP-HPLC (MeCN:H2O:0.1% TFA). ESI-MS (M+H)+ m/z calcd 386.1, found 386.2.

reactant | 1-tert-butyl-3-(3-(2,6-dichlorobenzyloxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.05 mmol, 19.5 mg | C(C)(C)(C)N1N=C(C=2C1=NC=NC2N)C2=CC(=CC=C2)OCC2=C(C=CC=C2Cl)Cl | C22H21Cl2N5O
solvent | formic acid | 2 mL | C(=O)O | CH2O2
solvent | HCl | 0.2 mL | Cl | ClH
product | 3-(3-(2,6-dichlorobenzyloxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClC1=C(COC=2C=C(C=CC2)C2=NNC3=NC=NC(=C32)N)C(=CC=C1)Cl | C18H13Cl2N5O
